US07026327B2
2-Butoxy-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine
A suspension of 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine (525 g) in n-butanol (5.25 L) was treated with potassium carbonate (210 g) at 20±5° C. The mixture was heated to 50±5° C. overnight until the reaction was complete by HPLC. Acetic acid (1.57 L) was added dropwise, to control any gas evolution, keeping the temperature at 50±5° C. Water (3.67 L) was then added over 30 min keeping the temperature at 50±5° C. to allow full crystallisation to occur. The slurry was then cooled to 20-25° C. and aged for at least 1 hour. The resulting product was then filtered under vacuum and washed with a mixture of n-butanol (787 mL), acetic acid (236 mL), and water (551 mL) followed by water (2×1.57 L). The product was then dried at up to ca50° C. under vacuum to yield the title compound. Yield, 457 g, 88.4% of theory. The title compound was found to be identical to that of Example 10.

reactant | 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine | 525 g | CS(=O)(=O)C1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C13H11F3N2O4S2
reactant | potassium carbonate | 210 g | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic acid | 1.57 L | C(C)(=O)O | C2H4O2
reactant | Water | 3.67 L | O | H2O
reactant | n-butanol | 5.25 L | C(CCC)O | C4H10O
product | 2-Butoxy-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine | C(CCC)OC1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C16H17F3N2O3S
